US06153744
2.1 ml abs. pyridine and 21.62 g thionyl chloride (13.3 ml,. 0.18 mol) is added to 10.13 9 2-(2-nitrophenyl)ethanol (60 mmol) in 36 ml abs. toluene. After 2 h reflux, this is cooled and poured onto ice. The ice water is mixed with 50 ml chloroform and extracted 2× each with 50 ml chloroform. The combined organic phases are neutralized 2× each with 100 ml saturated bicarbonate solution. After drying with Na2SO4, this is filtered and rotary evaporated. After distillation under high-vacuum, 9.7 9 (50 mmol,. 87%) 2-(2-nitrophenyl)ethyl chloride is obtained as a yellow oil with a boiling point of 66 to 67° C. (0.001 mbar).

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.18 mol, 13.3 ml, 21.62 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-nitrophenyl)ethanol | 60 mmol | [N+](=O)([O-])C1=C(C=CC=C1)CCO | C8H9NO3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-nitrophenyl)ethyl chloride | 50 mmol, 87% | [N+](=O)([O-])C1=C(C=CC=C1)CCCl | C8H8ClNO2
